US04155912
Preparation 1: 4-Acetylthio-2-azetidinone
To a cold (0°-5° C.) oxygen-free 1 N NaOH solution (27.5 ml.) was added thioacetic acid (2.09 g., 27.5 mmole) at such a rate that the temperature was maintained between 0°-5° C. The resulting solution was added dropwise (over 20 min.) to a cold (0.5° C.) oxygen-free aqueous solution (11 ml.) of 4-acetoxy-2-azetidinone (3.23 g., 25 mmole) [prepared in Liebigs Ann. Chem., 539 (1974)]. The reaction mixture was stirred under a nitrogen atmosphere for 0.5 hr. at 0°-5° C. and for 2-2.5 hr. at 23°-25° C. before being extracted with chloroform (4×25 ml.). The organic extracts were combined, washed with water (10 ml.), dried over anhydrous Na2SO4 and concentrated to a yellow syrup, 3.3 g., 91% yield. The title product was found to be identical to the sample prepared by Clauss in Liebigs Ann. Chem., 539 (1974). δ (ppm, CDCl3), 7.2 (1H, NH), 5.23 (1H, dd, Jcis =2.8, Jtrans =5.0, H-H), 3.55 (1H, ddd, Jgem =15.2, JHNH =2.0, H-3 trans), 2.95 (1H, ddd, Jgem =15.2, Jcis =2.8, JHNHS1, H-3 cis) and 2.36 (3H, s, methyl).

reactant | oxygen | 1 N, 27.5 ml | O=O | O2
reactant | thioacetic acid | 27.5 mmole, 2.09 g | C(C)(=S)O | C2H4OS
reactant | 4-acetoxy-2-azetidinone | 25 mmole, 11 ml, 3.23 g | C(C)(=O)OC1CC(N1)=O | C5H7NO3
reactant | H-H | [H][H] | H2
product | 4-Acetylthio-2-azetidinone | 91% yield | C(C)(=O)SC1CC(N1)=O | C5H7NO2S
